US07906533B2
A mixture of 2-chloro-isonicotinonitrile [Talik et al. Rocz. Chem.; 29; 1955; 1019, 1025.] (13.9 g, 0.1 mol), Pd2 dba3 (2.0 g, 2 mmol), Xantphos (3.6 g, 6.22 mmol), cesium carbonate (39.1 g, 120 mmol) and methylurea (37.04 g, 0.5 mol) in dioxane (800 mL), under a nitrogen atmosphere was heated for 8 hours at 130° C. (bath temperature). On cooling the reaction mixture was concentrated in vacuo. The residue was partitioned between CH2Cl2 and water. The organic phase was washed with brine, dried, filtered and concentrated in vacuo. The residue was purified by chromatography on silica gel (gradient elution: 100% hexane to 100% EtOAc) to give 1-(4-cyano-pyridin-2-yl)-3-methyl-urea (12.1 g) as a solid; Mp. 203-204° C.

reactant | 2-chloro-isonicotinonitrile | 0.1 mol, 13.9 g | ClC=1C=C(C#N)C=CN1 | C6H3ClN2
reactant | cesium carbonate | 120 mmol, 39.1 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | methylurea | 0.5 mol, 37.04 g | CNC(=O)N | C2H6N2O
solvent | dioxane | 800 mL | O1CCOCC1 | C4H8O2
catalyst | Pd2 dba3 | 2 mmol, 2.0 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | Xantphos | 6.22 mmol, 3.6 g | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
product | 1-(4-cyano-pyridin-2-yl)-3-methyl-urea | 12.1 g | C(#N)C1=CC(=NC=C1)NC(=O)NC | C8H8N4O
